US07435735B2
Step 11: 2-(3-Chloro-4-fluorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A mixture of 10-(benzyloxy)-2-(3-chloro-4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (0.20 g, 0.40 mmol) and 5% Pd/C (40 mg) in a mixture ethanol (100 mL) and acetic acid (11 mL) was stirred under an atmosphere of hydrogen gas (1 atm) at room temperature for 1 hr. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum, and the residue subjected to reverse phase HPLC purification. Collection and lyophilization of appropriate fractions provided the title product.

reactant | 10-(benzyloxy)-2-(3-chloro-4-fluorobenzyl)-4,8-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 0.40 mmol, 0.20 g | C(C1=CC=CC=C1)OC=1C2=C(N3C1C(N(CC3)C)=O)C(=CN(C2=O)CC2=CC(=C(C=C2)F)Cl)C | C26H23ClFN3O3
reactant | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 40 mg | [Pd] | Pd
solvent | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
product | 2-(3-Chloro-4-fluorobenzyl)-10-hydroxy-4,8-dimethyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)C)O)=O)C=CC1F | C19H17ClFN3O3
